US05089627
A mixture of 7.0 g (0.05 mol) of 4-(1-methyl-ethylideneamino)-2 4-dihydro-3H-1,2,4-triazol-3-one, 21 g (0.15 mol) of potassium carbonate, 11.0 g (0.05 mol) of 4,6-dimethoxy2-methylsulphonyl-pyrimidine and 100 ml of acetonitrile is refluxed for 3 hours. After the mixture has cooled, it is filtered and the filtrate is concentrated, the residue is taken up in 100 ml of ethanol/water (vol. 1:1), and the mixture is stirred for 3 hours at 60° C. after 1 ml of concentrated hydrochloric acid has been added. The mixture is concentrated, the residue is then triturated with ethanol, and the product obtained in the form of crystals is isolated by filtering off with suction. 9.7 g (82% of theory) of 4-amino-2-(4,6-dimethoxy-pyrimidin-2-yl)-2,4-dihydro-3H-1,2,4-triazol-3-one of melting point 238° C. are obtained.

reactant | 4-(1-methyl-ethylideneamino)-2 4-dihydro-3H-1,2,4-triazol-3-one | 0.05 mol, 7.0 g | CC(C)=NN1C(NN=C1)=O | C5H8N4O
reactant | potassium carbonate | 0.15 mol, 21 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4,6-dimethoxy2-methylsulphonyl-pyrimidine | 0.05 mol, 11.0 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 4-amino-2-(4,6-dimethoxy-pyrimidin-2-yl)-2,4-dihydro-3H-1,2,4-triazol-3-one | 9.7 g, 82% | NN1C(N(N=C1)C1=NC(=CC(=N1)OC)OC)=O | C8H10N6O3
